US08067445B2
Step 2: 2-{5-Chloro-2′-[(cyclopropanecarbonyl-ethyl-amino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-propionic acid ethyl ester
Prepared according to the procedure described in Example 213, Step 5, using the following starting materials: {5-chloro-2′-[(cyclopropanecarbonyl-ethyl-amino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester and iodomethane.

reactant | {5-chloro-2′-[(cyclopropanecarbonyl-ethyl-amino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester | C(C)OC(CC=1C=C(C=C(C1)Cl)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(=O)C1CC1)=O | C24H25ClF3NO3
reactant | iodomethane | IC | CH3I
product | 2-{5-Chloro-2′-[(cyclopropanecarbonyl-ethyl-amino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-propionic acid ethyl ester | C(C)OC(C(C)C=1C=C(C=C(C1)Cl)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(=O)C1CC1)=O | C25H27ClF3NO3
